US04256898
To 178 mg. of AT-125 in 4 ml. of water is added 300 mg. of sodium bicarbonate. After cooling the mixture to 0°-5° C., 300 mg. of 9-hydroxymethyl fluorenylcarbonyl chloride is added and it is stirred for two hours and allowed to stand overnight at room temperature. The resulting semi solid is taken up in ethyl acetate and 1 N hydrochloric acid is added until a pH of 3 is attained. The organic phase is separated, dried over sodium sulfate, concentrated and chromatographed on 20 g. of CC-4 silica gel employing 40% ethyl acetate/Hexane. Those fractions containing the desired product are evaporated and the residue recrystallized from ethyl acetate to yield 3-chloro-α-[[(9H-fluoren-9-yl-methoxy)carbonyl]amino]-4,5-dihydro-5-isoxazole acetic acid, m.p. 182°-183° C. The NMR fits the desired structure.

reactant | AT-125 | C1[C@H](ON=C1Cl)[C@@H](C(=O)O)N | C5H7ClN2O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 9-hydroxymethyl fluorenylcarbonyl chloride | OCC1C2=CC=CC=C2C=2C=CC=C(C12)C(=O)Cl | C15H11ClO2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-chloro-α-[[(9H-fluoren-9-yl-methoxy)carbonyl]amino]-4,5-dihydro-5-isoxazole acetic acid | ClC1=NOC(C1)C(C(=O)O)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C20H17ClN2O5
